US07893056B2
To a solution of 1,1-dimethylethyl (3R,5S)-3,5-dimethyl-1-piperazinecarboxylate (2.04 g, 9.5 mmol) in dichloromethane (25 mL) at 0° C. was added formaldehyde (1.075 mL, 37% water solution, 14.3 mmol) followed by sodium triacetoxyborohydride (2.628 g, 12.4 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 2 h before being diluted with dichloromethane and washed with 1N NaOH solution. The organics were then washed with brine, dried (MgSO4) and evaporated to yield 1,1-dimethylethyl (3R,5S)-3,4,5-trimethyl-1-piperazinecarboxylate (2.06 g, 95%). LCMS: (M+H)+: 229.2.

reactant | 1,1-dimethylethyl (3R,5S)-3,5-dimethyl-1-piperazinecarboxylate | 9.5 mmol, 2.04 g | C[C@@H]1CN(C[C@@H](N1)C)C(=O)OC(C)(C)C | C11H22N2O2
reactant | formaldehyde | 14.3 mmol, 1.075 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 12.4 mmol, 2.628 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 1,1-dimethylethyl (3R,5S)-3,4,5-trimethyl-1-piperazinecarboxylate | 2.06 g, 95% | C[C@@H]1CN(C[C@@H](N1C)C)C(=O)OC(C)(C)C | C12H24N2O2
